US03989832
EXAMPLE 20- PREPARATION OF 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-PIPERIDINO-S-TRIAZOLO[4,3-b]PYRIDAZINE
0.42 g. crude 3-(5-nitro-1-β-acetoxyethyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine (see Example 14 for the preparation thereof) was dissolved in 3 ml. dioxan, mixed with 0.36 ml. 33 percent aqueous methylamine solution, maintained at 60° C. for half an hour, then evaporated in a vacuum at a bath temperature of 50° C. The residue was dissolved in 2 ml. isopropanol, left to stand for about one hour at ambient temperature and the precipitated crystals then filtered off with suction, washed with isopropanol and ether and recrystallized (0.1 g.) from about 5 ml. isopropanol, with the addition of charcoal, to give 0.054 g. of the desired 3-(5-nitro-1-β-acetoxyethyl-2-imidazolyl)-6-methylamino-s-triazolo-[4,3-b]pyridazine, which has a melting point of 221° - 233° C.

reactant | 3-(5-nitro-1-β-acetoxyethyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1CCOC(C)=O)C1=NN=C2N1N=C(C=C2)Cl | C12H10ClN7O4
reactant | methylamine | CN | CH5N
reactant | 3-(5-nitro-1-β-acetoxyethyl-2-imidazolyl)-6-methylamino-s-triazolo-[4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1CCOC(C)=O)C1=NN=C2N1N=C(C=C2)NC | C13H14N8O4
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-PIPERIDINO-S-TRIAZOLO[4,3-b]PYRIDAZINE | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N2CCCCC2 | C14H16N8O2
